Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol
 
Attending: ___.
 
Chief Complaint:
flushing, nausea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female with PMH of HTN, hyperlipidemia presenting 
with flushing and hypertension to SBP >200. She reports that 
this has happened to her in the past, in particular approx ___ 
years ago when she had a CT scan of her abdomen showing an 
enlarged mesenteric lymph node. She had surgery at that time and 
the pathology of the lymph node was read as reactive. Since that 
time she was symptom free until this past weekend when she 
experienced a couple of episodes of flushing. She denies any 
trigger for these events, and in particular denies alcohol 
consumption. The worse event, prompting admission occured this 
am. She reports feeling very flushed with mild nausea. For the 
first time during one of these events she had L sided chest 
discomfort radiating to her left shoulder. A coworker identified 
that her face was very red and had her lie down to take a blood 
pressure which was 218/186. At that point she presented to the 
emergency department at which point she had resolution of her 
symptoms without intervention.
.
In the emergency department her vitals were T 98.4, HR 79, BP 
193/88, RR 16, O2 sat 99% on RA. She was given a full strength 
ASA and EKG showed NSR, nl axis, RBBB and ?lateral ST-segment 
depression. CE x 2 were negative and D-dimer was negative. Upon 
arrival to the floor the patient was asymptomatic and 
normotensive.
 
Past Medical History:
-HTN
-dyslipidemia
-negative MIBI ___ years ago 
-chronic UTIs
-diverticulitis
.
Surg Hx:
-Laparoscopically-assisted mesenteric node biopsy
and lysis of adhesions (reactive lymph node on path)
-Cholecystectomy and hysterectomy.

 
Social History:
___
Family History:
Significant for diabetes and high blood pressure.
Mom died of ovarian cancer diagnosed at age ___
MGM died of breat cancer diagnosed at age ___
Uncle with stomach cancer

 
Physical Exam:
Vitals: T 98.7 BP 120/66 HR 65 RR 20 O2 94% on RA
Gen: Well-appearing female in NAD, breathing comfortably
HEENT: MMM, no OP lesions
Neck: Supple, no LAD, no JVD
Heart: RRR, nl S1, S2, no S3/4, no murmurs
Lungs: CTA b/l, no w/r/r
Abd: Soft, ND, +BS, tender to deep palpation LLQ, no guarding or 
rebound tenderness, no masses or HSM
Extrem: no c/c/e, 2+ dp pulses b/l
Neuro: strength grossly intact
 
Pertinent Results:
Labs on admission:
.
Na 142, K 3.9, Cl 104, HCO3 31, BUN 14, Creat 0.7, Gluc 128
.
CK: 69, CK-MB 3, Trop-T <0.01 --> 0.01
.
WBC 7.9, Hgb 14.5, HCT 42.5, Plt 421 (N 58.7, L 33.4, M 4.6, E 
3.0, Bas 0.4).
.
U/A - wnl
.
Studies:
CXR: FINDINGS:  PA and lateral views of the chest are obtained.  
There is no evidence of pneumonia or CHF.  Cardiomediastinal 
silhouette is normal.  There is no pneumothorax.  Visualized 
osseous structures are intact.  Mild scoliosis noted at the 
lower thoracic and upper lumbar spine. 
IMPRESSION: No pneumonia. 
.
EKG: Sinus rhythm 
Consider left atrial abnormality 
There may be modest right ventricular conduction delay but 
baseline artifact 
makes assessment difficult 

.
Exercise stress MIBI: Very good exercise tolerance. No anginal 
type symptoms or ischemic EKG changes. The calculated left 
ventricular ejection fraction is  71%. Normal LV myocardial 
perfusion; normal LV wall motion and calculated LVEF.  
  

 
Brief Hospital Course:
Assessment/Plan: Pt is a ___ yo female with hx of hypertension 
with recent surgery for removal of mesenteric lymph node, 
presenting with flushing, nausea, chest pain, and found to have 
SBP >200.
.
# Hypertension/Flushing: The patient was admitted to the 
medicine floor and upon admission blood pressure had returned to 
normal (120/80). She had 2 further episodes of flushing during 
her hospital stay. Her blood pressure was not elevated on either 
occasion, but did have tachycardia on telemetry to 130 during 
one of the episodes. A plasma metanephrine and urine 5-HIAA and 
metanephrines were all within normal limits after 24 hour urine 
collection. She was seem by the endocrine team who recommending 
discontinuing lisinopril and starting Procartia for blood 
pressure control and was scheduled for outpatient follow-up in 
___ clinic.
.
# Chest pain: The patient was monitored for 24 hours on 
telemetry. EKG and cardiac enzymes were performed and showed no 
evidence of MI. She had no further episodes of chest pain and 
had a cardiac stress test prior to discharge which showed normal 
myocardial perfusion and excellent exercise tolerance.
 
Medications on Admission:
Hydrochlorothiazide 25mg po daily
Gemfibrozil 
Pravachol 40mg po daily
Protonix 20mg po daily
Lisinopril 20 mg po daily
 
Discharge Medications:
1. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
2. Pravachol 40 mg Tablet Sig: One (1) Tablet PO once a day.  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Gemfibrozil 600 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Procardia XL 30 mg Tab,Sust Rel Osmotic Push 24hr Sig: One 
(1) Tab,Sust Rel Osmotic Push 24hr PO once a day.
Disp:*30 Tab,Sust Rel Osmotic Push 24hr(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1.) Chest pain
2.) Hypertensive urgency

 
Discharge Condition:
afebrile, displaying normal vital signs, including SBP <140. 
Tolerating po and ambulating

 
Discharge Instructions:
You were admitted to the hospital because of high blood 
pressure, chest pain and flushing. An EKG was performed as well 
as blood work which showed no evidence of a heart attack. You 
then had a stress test which was also normal.
You had several other tests to evaluate your high blood pressure 
events, including urine and blood tests that looks for evidence 
of elevated adrenaline, the results were pending when you were 
discharged and will need to be follow-up in ___ clinic 
with Dr. ___ futher ___ and possible MRI.
.
You should stop taking your Lisinopril and Protonix and start a 
new prescription for high blood pressure called Procartia XL 
30mg daily.
.
If you experience another episode of chest pain, flushing, high 
or low blood pressure, lightheadedness, dizziness, shortness of 
breath, abdominal pain, or if you feel worse in any way, seek 
___ medical attention.
 
Followup Instructions:
___